US07772285B2
5.00 g of ethanethioamide was suspended in 50 mL of ethanol, to which 9.3 mL of ethyl 3-bromo-2-oxopropanoate was added dropwise at room temperature, and this suspension was stirred for one hour while heating it under reflux. The reaction mixture was cooled to room temperature and added to a mixture of ethyl acetate and water, followed by separation of the organic phase therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 2.30 g of ethyl 2-methyl-1,3-thiazole-4-carboxylate as white solid.

reactant | ethanethioamide | 5.00 g | C(C)(N)=S | C2H5NS
reactant | ethyl 3-bromo-2-oxopropanoate | 9.3 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 2-methyl-1,3-thiazole-4-carboxylate | 2.30 g | CC=1SC=C(N1)C(=O)OCC | C7H9NO2S
